US04451463
A solution (2.75 ml.) of bromine (80 mg.) in chloroform was added to a solution of 1-(4-hydroxybutyl)-3-[2-(2,2,2-trifluoroethyl)guanidino]pyrazole (140 mg.) in HOAc (2 ml.). After stirring at room temperature for 1 hour the mixture was basified with 6 N aqueous ammonium hydroxide and then extracted with EtOAc (6×10 ml.). The combined extracts were dried (MgSO4) and evaporated to dryness in vacuo to give 4-bromo-1-(4-hydroxybutyl)-3-[2-(2,2,2-trifluoroethyl)guanidino]pyrazole (145 mg., 82%) having the following n.m.r. spectrum in d6DMSO: 7.7 (s, 1H); 4.2 (br t, 2H); 3.9 (t, 2H); 3.3 (t, 2H); 1.5 (br m, 4H).

reactant | bromine | 2.75 ml, 80 mg | BrBr | Br2
reactant | 1-(4-hydroxybutyl)-3-[2-(2,2,2-trifluoroethyl)guanidino]pyrazole | 140 mg | OCCCCN1N=C(C=C1)NC(=NCC(F)(F)F)N | C10H16F3N5O
reactant | ammonium hydroxide | 6 N | [OH-].[NH4+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | HOAc | 2 ml | CC(=O)O | C2H4O2
product | 4-bromo-1-(4-hydroxybutyl)-3-[2-(2,2,2-trifluoroethyl)guanidino]pyrazole | 145 mg, 82% | BrC=1C(=NN(C1)CCCCO)NC(=NCC(F)(F)F)N | C10H15BrF3N5O
